US07732456B2
(2) Preparation of 1-{4-[2-((3S)-3-{[tert-butyl(dimethyl)silyl]oxy}-1-pyrrolidinyl)ethoxy]phenyl}-4-[(5-chloro-2-pyridinyl)methoxy]-1H-pyridin-2-one
A mixture of 1-[4(2-bromoethoxy)phenyl]-4-[(5-chloro-2-pyridinyl)methoxy]-1H-pyridin-2-one (300.7 mg, 0.69 mmol), (3S)-3-{[tert-butyl(dimethyl)silyl]oxy}pyrrolidine (417 mg, 2.1 mmols), ethyl (diisopropyl)amine (0.132 mL, 0.76 mmol) and DMF (3.5 mL) was stirred at 60° C. for 14 hours. Adding water, the reaction liquid was filtered. Thus obtained crude title compound was purified on silica gel column chromatography (KP-Sil FLASH 25+M, chloroform:methanol=1:0→10:1) to provide the title compound (276.6 mg, 72%).

reactant | 1-[4(2-bromoethoxy)phenyl]-4-[(5-chloro-2-pyridinyl)methoxy]-1H-pyridin-2-one | 0.69 mmol, 300.7 mg | BrCCOC1=CC=C(C=C1)N1C(C=C(C=C1)OCC1=NC=C(C=C1)Cl)=O | C19H16BrClN2O3
reactant | (3S)-3-{[tert-butyl(dimethyl)silyl]oxy}pyrrolidine | 2.1 mmols, 417 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1CNCC1 | C10H23NOSi
reactant | ethyl (diisopropyl)amine | 0.76 mmol, 0.132 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | DMF | 3.5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-{4-[2-((3S)-3-{[tert-butyl(dimethyl)silyl]oxy}-1-pyrrolidinyl)ethoxy]phenyl}-4-[(5-chloro-2-pyridinyl)methoxy]-1H-pyridin-2-one | 276.6 mg, 72% | [Si](C)(C)(C(C)(C)C)O[C@@H]1CN(CC1)CCOC1=CC=C(C=C1)N1C(C=C(C=C1)OCC1=NC=C(C=C1)Cl)=O | C29H38ClN3O4Si
